US07560558B2
4-Chloro-6,7-dimethoxyquinoline (223 mg), 1,6-dibromo-2-naphthol (910 mg), and 4-dimethylaminopyridine (366 mg) were suspended in o-dichlorobenzene (3 ml), and the suspension was stirred at 150° C. for 4 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give 4-[(1,6-dibromo-2-naphthyl)oxy]-6,7-dimethoxyquinoline (326 mg, yield 67%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 223 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 1,6-dibromo-2-naphthol | 910 mg | BrC1=C(C=CC2=CC(=CC=C12)Br)O | C10H6Br2O
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 366 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 3 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-[(1,6-dibromo-2-naphthyl)oxy]-6,7-dimethoxyquinoline | 326 mg, yield 67% | BrC1=C(C=CC2=CC(=CC=C12)Br)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C21H15Br2NO3
